US07022707B2
(R)-2-Ethyl-piperazine-1-carboxylic acid 2-fluoro-5-methoxy-benzyl ester hydrochloride:
A mixture of 6.27 mg (0.157 mmol) NaH (60% suspension in mineral oil) and 40 mg (0.105 mmol) (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-fluoro-5-hydroxy-benzyl) ester in 1 ml DMF was stirred for 30 min at room temperature under argon. 16.4 mg (0.115 mmol) methyliodide was added and the mixture was stirred 30 min at room temperature. After addition of 60 ul HCl (37%) the mixture was purified with preparative HPLC eluting with an acetonitrile/water gradient. The fractions containing the desired intermediate were combined and 0.05 ml HCl (37%) was added before evaporation to dryness. The residue was taken up in 1 ml dioxane and 0.15 ml HCl (37%) and stirred for 30 min at 60° C. Evaporation of the mixture yielded 20 mg (57%) of the title compound. MS (ISP): 297 (M+H)+.

reactant | NaH | 0.157 mmol, 6.27 mg | [H-].[Na+]
reactant | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-fluoro-5-hydroxy-benzyl) ester | 0.105 mmol, 40 mg | FC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C=C(C=C1)O | C19H27FN2O5
reactant | methyliodide | 0.115 mmol, 16.4 mg | CI | CH3I
reactant | HCl | 60 ul | Cl | ClH
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (R)-2-Ethyl-piperazine-1-carboxylic acid 2-fluoro-5-methoxy-benzyl ester hydrochloride | 20 mg, 57% | Cl.FC1=C(COC(=O)N2[C@@H](CNCC2)CC)C=C(C=C1)OC | InChI=1S/C15H21FN2O3.ClH/c1-3-12-9-17-6-7-18(12)15(19)21-10-11-8-13(20-2)4-5-14(11)16;/h4-5,8,12,17H,3,6-7,9-10H2,1-2H3;1H/t12-;/m1./s1
